US07893056B2
To a solution of racemic N,N-dimethyl-5-(phenylmethyl)-5-azaspiro[2.4]heptan-7-amine (0.8015 g, 3.479 mmol) in MeOH (18 mL) was added 1 N aq. HCl (6.96 mL, 6.96 mmol) and 10% Pd/C (50% water, 160 mg). The mixture was hydrogenated under balloon pressure overnight and then filtered. The solution was concentrated in vacuo to give crude racemic N,N-dimethyl-5-azaspiro[2.4]heptan-7-amine dihydrochloride (0.8060 g, >100% crude yield). LCMS: (M+H)+: 141.1.

reactant | racemic N,N-dimethyl-5-(phenylmethyl)-5-azaspiro[2.4]heptan-7-amine | 3.479 mmol, 0.8015 g | CN(C1CN(CC12CC2)CC2=CC=CC=C2)C | C15H22N2
reactant | HCl | 6.96 mmol, 1 N, 6.96 mL | Cl | ClH
solvent | MeOH | 18 mL | CO | CH4O
catalyst | Pd/C | 160 mg | [Pd] | Pd
product | racemic N,N-dimethyl-5-azaspiro[2.4]heptan-7-amine dihydrochloride | 0.8060 g | Cl.Cl.CN(C1CNCC12CC2)C | InChI=1S/C8H16N2.2ClH/c1-10(2)7-5-9-6-8(7)3-4-8;;/h7,9H,3-6H2,1-2H3;2*1H
